US03941821
A solution of 0.01 moles of benzyl 2'-cyano-4-biphenylylglycolate dissolved in 100 ml. of acetic acid and containing 0.01 mole of hydrogen chloride is shaken with hydrogen over a 5% Pd carbon catalyst until 0.01 moles of hydrogen is absorbed. The catalyst is then filtered and the solution is evaporated to dryness and crystallized to obtain 2'-cyano-4-biphenylylglycolic acid.

reactant | benzyl 2'-cyano-4-biphenylylglycolate | 0.01 moles | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)OCC1=CC=CC=C1)O | C22H17NO3
reactant | hydrogen chloride | 0.01 mole | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.01 moles | [H][H] | H2
catalyst | Pd carbon | [Pd].[C]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2'-cyano-4-biphenylylglycolic acid | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)C(C(=O)O)O | C15H11NO3
